US04483861
(4R)-2-(2-Acetoxyphenyl)-3-(S-acetyl-3-mercaptopropanoyl)-4-thiazolidinecarboxylic acid (Compound 32)
2.7 g of (4R)-2-(2-acetoxyphenyl)-4-thiazolidinecarboxylic acid and 2.8 g of potassium carbonate are dissolved in 60 ml of water. To this solution, 1.8 g of S-acetyl-3-mercaptopropanoyl chloride is added dropwise with stirring under ice-cooling. After the addition, the mixture is stirred under ice-cooling for 1 hour and at room temperature for additional 1 hour. The reaction solution is washed with ethyl acetate, and acidified with conc. hydrochloric acid to give crystals. The crystals (the titled compound) are collected by filtration, yield 2.8 g (70%), mp. 144°-145° C. (ethyl acetate-benzene), [α]D27 +109.0° (c=1.0, methanol).

reactant | (4R)-2-(2-acetoxyphenyl)-4-thiazolidinecarboxylic acid | 2.7 g | C(C)(=O)OC1=C(C=CC=C1)C1SC[C@H](N1)C(=O)O | C12H13NO4S
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | S-acetyl-3-mercaptopropanoyl chloride | 1.8 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
solvent | water | 60 ml | O | H2O
product | (4R)-2-(2-Acetoxyphenyl)-3-(S-acetyl-3-mercaptopropanoyl)-4-thiazolidinecarboxylic acid | C(C)(=O)OC1=C(C=CC=C1)C1SC[C@H](N1C(CCSC(C)=O)=O)C(=O)O | C17H19NO6S2
